US05179229
1-(4'-Chlorophenyl)-2-methyl-1-propanol (9.6 grams, 0.05 moles), ethanol (4.5 grams, 0.1 mole), and hexane (32 grams) are charged into a 300 cubic centimeter Hastelloy C autoclave. The autoclave is purged twice with nitrogen, evacuated to 100 mm Hg, and cooled to -30° C. Hydrogen fluoride (75 grams, 3.25 mole) is then added and the reactor is pressurized to 600 psig with carbon monoxide. The reaction mass is stirred for about an hour at room temperature. The hydrogen fluoride is vented and the contents are removed and poured onto crushed ice. A solution of 45% potassium hydroxide is added to the mixture until the pH of the mixture is adjusted to 6.0-6.5. The mixture is then extracted with ethyl acetate (3 times with 150 ml of ethyl acetate each time). The combined organic extract is dried with anhydrous magnesium sulfate, filtered, and concentrated to yield the crude product. The crude product is distilled under vacuum to give pure ethyl 2,2-dimethyl-3-(4'-chlorophenyl)propanoate.

reactant | 1-(4'-Chlorophenyl)-2-methyl-1-propanol | 0.05 moles, 9.6 grams | ClC1=CC=C(C=C1)C(C(C)C)O | C10H13ClO
reactant | ethanol | 0.1 mole, 4.5 grams | C(C)O | C2H6O
reactant | Hydrogen fluoride | 3.25 mole, 75 grams | F | FH
reactant | carbon monoxide | [C]=O | CO
reactant | hexane | 32 grams | CCCCCC | C6H14
catalyst | Hastelloy C | 300 cubic centimeter | [Cr].[Co]
product | ethyl 2,2-dimethyl-3-(4'-chlorophenyl)propanoate | CC(C(=O)OCC)(CC1=CC=C(C=C1)Cl)C | C13H17ClO2
